Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Codeine / Amoxicillin / morphine
 
Attending: ___.
 
Chief Complaint:
"It is all too much"

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Pt is a ___ y/o AAF with borderline personality disorder,  
polysubstance abuse, and mood d/o NOS with question of psychotic 
features and PTSD who was brought in
by ambulance after she called ___ triage with SI with intent to 
overdose. 

The pt was initially dismissive of her symptoms and repeatedly 
mumbles "I'm fine now, I just want to go home, everything is 
fine." She says "the lady thought I was depressed, I'm fine 
now." She called because she wanted someone to talk to, but 
offers no explanation of why someone would think she was 
suicidal or why
they would think she intended to OD. She eventually endorses "I 
took some pain pills and something else, but it didn't work, I'm 
still here." She expresses vague stressors of "everyone expects 
so much" and "I can't take it anymore," but will not offer 
further explanation. While visibly crying and shaking she denies
crying and shaking. 

At one point she eventually states that she forgot her twin 
sons' birthday was yesterday and starts mumbling "what kind of 
person forgets their kids' birthday" and begins to cry again and 
taking short deep breaths. 

At times she says "I shouldn't talk to you." When asked who 
could she talk to or who could I talk to she says she doesn't 
know. When I told her that I needed to make certain she could 
stay safe if she wanted to leave the hospital, she said "I don't 
have a safe plan. How can I have one out there, when I can't get 
one in
my mind." She said she wished to be hospitalized (after 
repeatedly requesting to go home) as long as it was BI or 
___, "otherwise forget it." When asked how a hospitalization 
would be beneficial this time, she says "I shouldn't have left 
early last time, but my sister needed me."

She endorsed vague sense of mood and stated she thought she was 
happy, poor sleep with difficult onset and maintenance, lack of 
interests (used to enjoy painting, skating, swimming), ok 
motivation, sluggish energy, ok appetite with intentional wt 
loss, decreased concentration, ok memory. She is vague about SI,
but clearly reported to ___ triage SI and intent to OD and 
reported to me she had taken an unknown amount of unknown pills. 
She stated she sometimes thinks of hurting others, but "not 
now." She denied symptoms consistent with mania. She vaguelly 
endorsed visual hallucinations (seeing shadows) and possible 
hearing
people call her name. She endorsed panic attacks with SOB and 
CP. She endorsed frequent bloody nightmares, which have been 
worse over the past month and a half. She endorsed physical and 
sexual abuse since ___ years old and most recently ___ yrs ago, but 
would not elaborate more.  

 
Past Medical History:
PSYCHIATRIC HISTORY: 
- Past Psychiatry Admissions at ___
--___: ___ Psych Admission to ___
Suicide attempt via cocaine overdose while pregnant. Reported
neurovegetative symptoms and at times AH. Discharged on 20mg
prozac. Diagnosed with cocaine abuse and dysthymia vs MDD.

--___: Deac 4 Admission: 
Presented with SI to swallow cocaine. Discharged on prozac 20mg
but never f/u outpatient care.

--___: Deac 4 Admission:
Diagnosis of MDD and Cocaine Abuse. Stressors included
relationship conflict with fiance. Presented with vague SI and
command AH.  Not interested in drug rehab. Discharged on celexa
20mg

--___: Deac 4 Admission:
Presented with cocaine abuse, abusive relationship, and at times
command AH. Diagnosed with cocaine abuse and MDD with psychotic
features. Started on celexa 10mg and risperidone 0.5mg

--___: No show for outpatient bridge appointment.

--___: Came to outpatient appointment. Admitted to 
relapsing
on cocaine. Celexa increased to 20mg and risperidone to 1mg.

--___: Deac 4 Admission:
Presented with depression and SI in context of reported physical
and sexual abuse in the context of using alcohol and cocaine.
Some AH. She was restarted on celexa 20mg and diagnosed with
depression NOS and polysubstance abuse.

--___: Deac 4 Admission
Self presented with suicide attempt via alcohol, cocaine, and
risperidone in setting of abusive relationship. (___
restarted risperidone recently at 3.5mg qhs). She was again
restarted on celexa 20mg but risperidone was stopped. Diagnosed
with Depression NOS, Polysubstance Abuse, and Cluster B traits.

--___: Presented to ___ with complaint of suicide attempt 
via cocaine and alcohol. Unclear what final disposition was but
patient was ___.

--___: Deac 4 Admission: 
Presented with suicide attempt via alcohol, cocaine, ambien, and
seroquel in context of report of sexual abuse and AH. On the 
unit
patient denied she was ever suicidal and admitted she "needed a
rest." Given irritability, impulsivity, and difficulties with
sleep was started on quetiapine. Meds on admission were seroquel
50mg qhs, paxil 20mg, zolpiden 10mg qhs, amolodipine 5mg,
lisinopril with hctz ___, omeprazole 20mg. Discharge meds
were quetiapine 50mg qhs, omeprazole 20mg, and hctz 25mg daily.

--___: Brought to ___ ___ by police when found 
wandering.
Reported suicidal thoughts and plan to step in front of bus. 
___ and sent to ___ for care.

--___: Presented to ___ with vague SI in context of 
alcohol
and cocaine and relationship stress. Told ___ not interested in
substance abuse treatment. Discharged from ___ and diagnosed with
polysubstance dependence and borderline personality disorder.

--___: Presented to ___ for overdose on "handful of 
pills"

--___: Presented to ___ with SI/HI in context of fight 
with
boyfriend and alcohol use. Attempted to cut wrists. Discharged
home.

--___: Current Deac 4 Admission.

Med Trials: Prozac, Celexa, Sertraline, Risperidone. No ECT. Of 
note patient has long history of poor medication compliance 
outside of hospital.
Treaters: None-patient has long history of poor follow up with 
outpatient treaters.
- Collateral (her boss) reports he has taken her to ___ ___ 4 
times and to some other EDs.  

PAST MEDICAL HISTORY:
- Past PCP was Dr. ___ @ ___ / Healthcare 
Associates ___ but patient no longer sees.
- hypertension
- obesity
- hx of heart murmur
- hx of anemia and thalassemia (chronic and stable)
- 6 children, four with C sections 
- s/p tubal ligation
 
Social History:
SUBSTANCE ABUSE HISTORY: Pt endorsed drinking a ___ pint of 
brandy on day of admission but states she doesn't drink on 
weekdays. On admission she also admitting to smoking cocaine in 
attempt to soothe herself but found it made her
irritable. She denied MJ or tobacco or other illicits. Per OMR 
records she has a long history of alcohol abuse (at least ___ 
years) alongside cocaine abuse (at least ___ years) with numerous 
refusals for substance abuse treatment and no documented change 
in usage patters despite numerous hospital admissions.

FORENSIC HISTORY:
Arrests: denied
Convictions and jail terms: denied
Current status (pending charges, probation, parole): n/a

SOCIAL HISTORY: ___
Family History:
Mother and sisters with history of EtOH abuse/dependence
Sister with depression and history of suicide attempt
Sister with mental retardation

 
Physical Exam:
HEENT:  Normocephalic, atraumatic. Moist Mucous Membranes.
Cardio:  ___ systolic murmur (chronic)
Pulm:  Normal work of breathing, clear to auscultation 
bilaterally.
Abd: Non-distended, non-tender to palpation, positive bowel 
sounds
Ext: Warm and well perfused, capillary refill < 2 seconds
Neuro: CN ___ grossly intact. ___ strength throughout. Normal 
coordination of finger to nose testing. Sensation within normal 
limits to light touch. Normal gait and no ataxia noted. No 
tremor appreciated.
 
Pertinent Results:
Chem 7: within normal limits
CBC: stable/chronic anemia, else within normal limits.
LFTs: within normal limits
Urine Analysis: negative
Utox: positive for benzos and positive for coaine

 
Brief Hospital Course:
PSYCHIATRIC

#) POLYSUBSTANCE ABUSE: The patient presented after usage and 
intoxication with both alcohol and cocaine. Her utox was 
positive for cocaine in the ___. She was carefully monitored for 
alcohol withdrawal and cocaine withdrawal during her 
hospitalization but was noted to never demonstrate any signs of 
symptoms of such and thus no treatment was necessary for such. 
The patient was educated on the dangers of her alcohol and 
cocaine use but continued to minimize her use of both 
substances. When confronted with evidence of similar patterns of 
polysubstance noted in past ___ notes dating back to ___ the 
patient laughed and stated "I guess things don't change." The 
patient did note her polysubstance abuse is the driving factor 
in her suicidal ideations and agreed that the use of cocaine or 
alcohol was dangerous for her. She agreed she will try to 
refrain from such now although was less concrete when asked to 
identify exactly how she plans to accomplish such. The team 
suggested numerous substance use programs for the patient to 
follow up with and she indicated she would "consider" such, 
especially AA at a local church and obtaining a sponsor.

#) BORDERLINE PERSONALITY DISORDER: Her presentation was notable 
for also being  consistent with borderline personality disorder 
given the her well documented history over ___ years that is 
remarkably consistent over such a large time span for patterns 
of unstable relationships, impulsivity, recurrent suicidal 
gestures,affective instability, and difficulty at times 
controlling anger. The patient was informed of this diagnosis 
and educated about boderline personality disorder and said she 
was willing to work with an outpatient therapist to follow such 
up with. She said she might be interested in outpatient DBT but 
was also unsure.

#) IRRITABILITY: The patient was noted to be irritable and at 
times frustrated. The differential of substance induced mood 
disorder versus borderline personality disorder versus 
underlying irritability/ impulsivity was considered. The patient 
was noted to have tolerated risperdione well in the past with no 
noted side effects and so we restarted such at 0.5mg BID which 
the patient also tolerated well with no noted side effects. The 
patient reported that this medication helped her feel "more 
calm" and "less upset." 

# SUICIDAL IDEATION: The patient report suicidal ideations with 
plan to overdose on various medications while in the Emergency 
Department. On the the unit, she constantly denied suicidal 
ideations and reported future orientation with plans to continue 
with her work at an ___ and to reconnect with her 
children. There were no noted safety concerns regarding the 
patient while she was on the unit. She noted she only feels 
suicidal in the context of cocaine of alcohol intoxication and 
reported that she understands that she must refrain from 
substance abuse for her safety. She reported that if she does 
ever feel unsafe in the future, she knows how to call for help 
as demonstrated by her numerous Emergency Department visits over 
the past ___ years.

#ABUSE: ___
#)Hypertension: The patient was noted to have hypertensive blood 
pressures. She denied currently taking any medication and could 
not recall what medication she previously prescribed. Per 
reviewing OMR, the team noted she has tolerated HCTZ well in the 
past and we thus restarted such at 12.5mg with noted improvement 
in her blood pressure. The patient was advised on the importance 
of taking this medication on a daily basis and educated about 
the consequences of poorly controlled hypertension including 
heart disease and stroke.

#Anemia: The patient suffers from chronic anemia / thalesemia 
trait. Her blood work on ___ was notable for stable and 
unchanged values of her hematocrit from her baseline.

PSYCHOSOCIAL
#Groups/Milieu
The patient was noted to attend many groups and at times be an 
active participant. The patient was interactive with peers, 
active on the unit, and had no safety problems on the unit.

#Collateral
___, brother, ___: He confirmed the patient's 
polysubstance abuse and noted she does not have suicidal 
thoughts or plans except when using alcohol or cocaine. He noted 
he feels the patient is not a risk or harm to herself and feels 
that she would be safe to discharge. He understands that she 
will need to refrain from all substances and agrees to help 
monitor the patient for such and encourage her to follow up with 
various substance abuse resources.

LEGAL STATUS: The patient was admitted to the unit on a CV.

RISK ASSESSMENT: This patient has a low risk of imminent danger 
to herself or others.  The patient has several risk factors for 
self harm including a chronic history of poly-substance abuse, a 
long term history of poor medication and outpatient follow up 
compliance, a history of abuse, her age, gender, and race. She 
also has numerous protective factors including no access to 
weapons, numerous instances of help seeking behaviors, and 
future orientation. While in the hospital we attempted to 
address all of her modifiable risk factors. We addressed her 
poly-substance abuse by offering her 
counselling/education/therapy on such as well as referring her 
to numerous community and outpatient resources. On discharge she 
told the team she plans "stop" her alcohol and cocaine use. We 
addressed her history of impulsivity by starting her on 
risperidone 0.5mg BID which she tolerated well and noted help 
her feel calmer and "less upset." Still given her well 
documented history of at least 20+ years of polysubstance abuse 
as well as static risk factors such a age, gender, and race the 
patient remains at an elevated risk for self harm although at 
this point is not at imminent danger to herself requiring 
inpatient level of care.
 
Medications on Admission:
Patient noted she had not been taking any medications for at 
least one month prior to admission.
 
Discharge Medications:
1. FoLIC Acid 1 mg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 
3. RISperidone 0.5 mg PO BID 
RX *risperidone 0.5 mg 1 tablet(s) by mouth Twice a Day Disp 
#*28 Tablet Refills:*0
4. Thiamine 100 mg PO DAILY 
5. HCTZ 12.5mg, 1 tab daily, Disp #14 tabs
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Poly-substance Abuse, Borderline Personality Disorder, Mood 
Disorder NOS

 
Discharge Condition:
Patient is ambulatory at baseline.

Appearance: Middle age ___ female, no apparent 
distress.
Behavior: No abnormal behavior noted. No pma/pmr
Speech: Regular rate, tone, and volume.
Mood and Affect: 'Good,' euthymic and congruent.
Thought process: Linear
Thought Content: Denies SI or HI or AVH. 
Judgment and Insight: Fair/Fair
Cognition: Alert and Orientated and able to recall recent and 
past events

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
-It was a pleasure to have worked with you, and we wish you the 
best of health

 
Followup Instructions:
___